US07517873B2
A mixture of 2.20 g (0.00679 mole) of 1-{[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-cyclopropanecarboxylic acid methyl ester (IV-53), 0.75 g of 5% palladium on carbon catalyst, and 80 mL of ethyl acetate was stirred under an atmosphere of hydrogen until the reaction was complete. The resulting mixture was filtered through Celite and the combined filtrate was concentrated under reduced pressure to give 1.94 g of 1-{[(5-amino-2-chloro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-cyclopropanecarboxylic acid methyl ester (V-53) as an off-white solid.

reactant | 1-{[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-cyclopropanecarboxylic acid methyl ester | 0.00679 mole, 2.20 g | COC(=O)C1(CC1)CN(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl | C15H19ClN4O4
catalyst | palladium on carbon | 0.75 g | [Pd] | Pd
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | 1-{[(5-amino-2-chloro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-cyclopropanecarboxylic acid methyl ester | 1.94 g | COC(=O)C1(CC1)CN(C1CCCC1)C1=NC(=NC=C1N)Cl | C15H21ClN4O2
